US05610292
Roberts et al (J. Org. Chem. 32, 816 (1967)) teach the production of cytarabine from cytidine (or from 2'(3')-cytidylic acid). Specifically, cytidine is reacted with phosphoric acid at 80° C. for a period of 30 hours to produce a 2,2'-O-cyclocytidine analogue intermediate. This intermediate is then hydrolyzed at a pH of 9 utilizing lithium hydroxide to produce the 3',5'-diphosphate of cytarabine. The diphosphate is then treated with magnesium chloride, ammonium chloride and concentrated ammonium hydroxide, and thereafter purified by column chromatography to yield pure cytarabine. The overall yield of pure cytarabine is limited to 53% based on the unrecovered portion of the starting cytidine.

reactant | cytarabine | C1=CN(C(=O)N=C1N)[C@H]2[C@H]([C@@H]([C@H](O2)CO)O)O | C9H13N3O5
reactant | cytidine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)N=C(N)C=C1 | C9H13N3O5
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | 2,2'-O-cyclocytidine | C1=CN2[C@H]3[C@H]([C@@H]([C@H](O3)CO)O)OC2=NC1=N | C9H11N3O4
